US03974161
C. Ethyl 8-fluoropyrimido[4,5-b]quinolin-4(3H)-one-2-carboxylate
Diethyl oxalate (47.5 g., 0.326 mole) and 7-fluoro-2-aminoquinoline-3-carboxamide (3.7 g., 0.015 mole) are mixed together and heated at 160° C. for seven hours. The reaction mixture is cooled to room temperature, hexane (300 ml.) added, and the brown solid which precipitates filtered off, and washed with hexane (60 ml.). It is then slurried in hot chloroform (250 ml.) and the insoluble material removed by filtration. The hot filtrate is decolorized with charcoal, filtered and dried (Na2SO4). The light brown solid which precipitates upon cooling is filtered off and recrystallized from isopropyl alcohol. Yield = 1.04 g. (29.2%) of the title ethyl ester. M.P. 248°-251° C.

reactant | Diethyl oxalate | 0.326 mole, 47.5 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 7-fluoro-2-aminoquinoline-3-carboxamide | 0.015 mole, 3.7 g | FC1=CC=C2C=C(C(=NC2=C1)N)C(=O)N | C10H8FN3O
solvent | hexane | 300 ml | CCCCCC | C6H14
product | Ethyl 8-fluoropyrimido[4,5-b]quinolin-4(3H)-one-2-carboxylate | FC1=CC=C2C=C3C(=NC2=C1)N=C(NC3=O)C(=O)OCC | C14H10FN3O3
